T1 (net332 net286 net286 0) nfet L=7.36E-6 W=9.09E-6
C2 (net226 net238) C=5.6E-11
R3 (net57 net77) R=2.3E0
R4 (net226 vdd!) R=7.1E1
R5 ( net4 net52)  R=8.3E1
T6 ( net52 net91 vdd! vdd!)  pfet  L=1.95E-6 W=9.78E-6
T7 ( net67 net91 vdd! vdd!)  pfet  L=1.95E-6 W=9.78E-6
T8 ( net323 net52 net67 vdd!)  pfet  L=1.95E-6 W=9.78E-6
R9 (net56 net198) R=3.4E1
R10 ( vdd! net234)  R=7.9E0
T11 ( net234 net234 0 0)  nfet  L=6.77E-6 W=0.32E-6
T12 ( net313 net234 0 0)  nfet  L=6.77E-6 W=0.32E-6
T13 (net256 net151 net151 0) nfet L=9.85E-6 W=5.80E-6
R14 ( net69 net286)  R=4.2E0
T15 ( net286 net350 vdd! vdd!)  pfet  L=8.42E-6 W=5.17E-6
T16 ( net48 net350 vdd! vdd!)  pfet  L=8.42E-6 W=5.17E-6
T17 ( net307 net286 net48 vdd!)  pfet  L=8.42E-6 W=5.17E-6
T18 (net147 net10 net10 0) nfet L=7.62E-6 W=8.63E-6
T19 (net25 net183 net183 0) nfet L=0.13E-6 W=9.72E-6
R20 ( net105 net251)  R=4.1E1
T21 ( net251 net240 0 0)  nfet  L=2.77E-6 W=9.76E-6
T22 ( net252 net240 0 0)  nfet  L=2.77E-6 W=9.76E-6
T23 ( vdd! net251 net252 0)  nfet  L=2.77E-6 W=9.76E-6
R24 (0 net142) R=5.5E5
R25 (net245 net78) R=6.1E5
T26 ( net151 net151 0 0)  nfet  L=6.84E-6 W=3.52E-6
T27 ( net26 net151 0 0)  nfet  L=6.84E-6 W=3.52E-6
R28 ( net26 net326)  R=9.0E2
T29 (net338 net353 net353 0) nfet L=5.49E-6 W=4.99E-6
R30 ( net220 net147)  R=6.0E6
T31 ( net147 net219 vdd! vdd!)  pfet  L=8.89E-6 W=6.55E-6
T32 ( net348 net219 vdd! vdd!)  pfet  L=8.89E-6 W=6.55E-6
T33 ( net198 net147 net348 vdd!)  pfet  L=8.89E-6 W=6.55E-6
T34 (vdd! net59 net59 0) pfet L=6.32E-6 W=9.14E-6
C35 (net156 net206) C=8.7E-6
R36 ( net340 net66)  R=5.0E2
T37 ( net66 net163 vdd! vdd!)  pfet  L=7.88E-6 W=2.40E-6
T38 ( net149 net163 vdd! vdd!)  pfet  L=7.88E-6 W=2.40E-6
T39 ( net212 net66 net149 vdd!)  pfet  L=7.88E-6 W=2.40E-6
T40 (net319 net136 net136 0) pfet L=8.49E-6 W=2.70E-6
R41 ( net112 net210)  R=4.0E6
T42 ( net210 net283 vdd! vdd!)  pfet  L=8.23E-6 W=5.42E-6
T43 ( 0 net283 vdd! vdd!)  pfet  L=8.23E-6 W=5.42E-6
T44 ( 0 net210 net283 vdd!)  pfet  L=8.23E-6 W=5.42E-6
T45 (net194 net323 net323 0) nfet L=9.74E-6 W=2.91E-6
R46 ( net57 net85)  R=7.9E0
T47 ( net85 net85 net186 0)  nfet  L=1.86E-6 W=5.60E-6
T48 ( net186 net187 0 0)  nfet  L=1.86E-6 W=5.60E-6
T49 ( net187 net187 0 0)  nfet  L=1.86E-6 W=5.60E-6
T50 ( net93 net85 net187 0)  nfet  L=1.86E-6 W=5.60E-6
T51 (net98 net84 net84 0) pfet L=9.84E-6 W=9.61E-6
R52 ( net192 net107)  R=0.6E4
T53 ( net107 net178 vdd! vdd!)  pfet  L=0.38E-6 W=8.41E-6
T54 ( net270 net178 vdd! vdd!)  pfet  L=0.38E-6 W=8.41E-6
T55 ( vdd! net107 net270 vdd!)  pfet  L=0.38E-6 W=8.41E-6
T56 (net263 vdd! vdd! 0) pfet L=7.27E-6 W=9.14E-6
R57 ( net217 net23)  R=3.8E1
T58 ( net23 net5 vdd! vdd!)  pfet  L=4.79E-6 W=0.21E-6
T59 ( net143 net5 vdd! vdd!)  pfet  L=4.79E-6 W=0.21E-6
T60 ( 0 net23 net5 vdd!)  pfet  L=4.79E-6 W=0.21E-6
C61 (net155 net55) C=7.5E-8
T62 (net19 0 0 0) nfet L=4.75E-6 W=0.37E-6
T63 (net127 net141 net141 0) pfet L=3.39E-6 W=9.75E-6
T64 ( net150 net150 vdd! vdd!)  pfet  L=3.47E-6 W=5.52E-6
T65 ( net102 net150 vdd! vdd!)  pfet  L=3.47E-6 W=5.52E-6
R66 ( net102 net264)  R=0.4E2
R67 (0 net131) R=2.2E4
R68 ( net322 net17)  R=5.8E1
T69 ( net17 net17 0 0)  nfet  L=0.36E-6 W=5.23E-6
T70 ( 0 net17 0 0)  nfet  L=0.36E-6 W=5.23E-6
C71 (net165 net40) C=9.4E-6
R72 (net63 net307) R=8.7E0
R73 ( net135 net90)  R=9.8E0
T74 ( net90 net76 0 0)  nfet  L=3.50E-6 W=7.51E-6
T75 ( net123 net76 0 0)  nfet  L=3.50E-6 W=7.51E-6
T76 ( net70 net90 net123 0)  nfet  L=3.50E-6 W=7.51E-6
C77 (net55 net209) C=4.6E-11
R78 ( net218 net324)  R=1.1E0
T79 ( net324 net324 net313 0)  nfet  L=9.01E-6 W=3.15E-6
T80 ( net313 net127 0 0)  nfet  L=9.01E-6 W=3.15E-6
T81 ( net127 net127 0 0)  nfet  L=9.01E-6 W=3.15E-6
T82 ( net96 net324 net127 0)  nfet  L=9.01E-6 W=3.15E-6
T83 (net171 net201 net201 0) nfet L=8.39E-6 W=3.36E-6
R84 ( net14 net347)  R=7.3E1
T85 ( net347 net279 vdd! vdd!)  pfet  L=2.72E-6 W=1.79E-6
T86 ( net356 net279 vdd! vdd!)  pfet  L=2.72E-6 W=1.79E-6
T87 ( 0 net347 net279 vdd!)  pfet  L=2.72E-6 W=1.79E-6
C88 (net316 net198) C=5.8E-11
T89 (net335 net35 net35 0) nfet L=2.20E-6 W=6.33E-6
R90 (net28 net229) R=3.3E0
T91 (net343 net211 net211 0) pfet L=6.74E-6 W=8.83E-6
R92 ( net206 net244)  R=7.4E3
T93 ( net244 net244 net332 0)  nfet  L=9.79E-6 W=9.74E-6
T94 ( net332 net184 0 0)  nfet  L=9.79E-6 W=9.74E-6
T95 ( net184 net184 0 0)  nfet  L=9.79E-6 W=9.74E-6
T96 ( net162 net244 net184 0)  nfet  L=9.79E-6 W=9.74E-6
C97 (net239 net197) C=0.6E-9
R98 (net261 net72) R=3.2E4
T99 (net331 net61 net61 0) pfet L=9.03E-6 W=8.26E-6
T100 (vdd! net141 net141 0) pfet L=5.01E-6 W=3.26E-6
T101 (net298 net272 net272 0) nfet L=8.83E-6 W=8.92E-6
R102 ( net136 net339)  R=9.4E4
T103 ( net339 net87 vdd! vdd!)  pfet  L=4.80E-6 W=1.49E-6
T104 ( net156 net87 vdd! vdd!)  pfet  L=4.80E-6 W=1.49E-6
T105 ( net296 net339 net156 vdd!)  pfet  L=4.80E-6 W=1.49E-6
T106 (net16 net201 net201 0) pfet L=1.58E-6 W=7.68E-6
R107 ( net45 net288)  R=0.5E0
T108 ( net288 net288 vdd! vdd!)  pfet  L=0.77E-6 W=7.37E-6
T109 ( net71 net288 vdd! vdd!)  pfet  L=0.77E-6 W=7.37E-6
C110 (net327 net39) C=1.9E-8
R111 (net316 net303) R=5.3E6
R112 ( net29 net204)  R=5.7E6
T113 ( net204 net204 0 0)  nfet  L=4.94E-6 W=1.00E-6
T114 ( net29 net204 0 0)  nfet  L=4.94E-6 W=1.00E-6
T115 (vdd! net92 net92 0) pfet L=2.51E-6 W=6.86E-6
R116 ( net7 net97)  R=7.1E6
T117 ( net97 net97 vdd! vdd!)  pfet  L=6.35E-6 W=1.60E-6
T118 ( net31 net97 vdd! vdd!)  pfet  L=6.35E-6 W=1.60E-6
C119 (0 net222) C=7.4E-9
R120 ( net73 net277)  R=8.6E0
T121 ( net277 net345 vdd! vdd!)  pfet  L=5.72E-6 W=6.32E-6
T122 ( net280 net345 vdd! vdd!)  pfet  L=5.72E-6 W=6.32E-6
T123 ( 0 net277 net345 vdd!)  pfet  L=5.72E-6 W=6.32E-6
R124 (vdd! net135) R=9.0E5
C125 (net152 0) C=3.5E-7
R126 ( net103 net341)  R=2.8E3
T127 ( net341 net218 vdd! vdd!)  pfet  L=8.19E-6 W=1.12E-6
T128 ( net81 net218 vdd! vdd!)  pfet  L=8.19E-6 W=1.12E-6
T129 ( net14 net341 net81 vdd!)  pfet  L=8.19E-6 W=1.12E-6
C130 (net11 net354) C=4.2E-5
R131 ( net109 net343)  R=1.7E4
T132 ( net343 net143 vdd! vdd!)  pfet  L=0.50E-6 W=6.84E-6
T133 ( net356 net143 vdd! vdd!)  pfet  L=0.50E-6 W=6.84E-6
T134 ( 0 net343 net143 vdd!)  pfet  L=0.50E-6 W=6.84E-6
T135 (net182 net113 net113 0) pfet L=5.79E-6 W=0.91E-6
T136 (net16 net108 net108 0) pfet L=8.81E-6 W=2.25E-6
T137 (net352 net226 net226 0) pfet L=9.54E-6 W=7.76E-6
C138 (net162 net79) C=1.3E-10
T139 (net116 net148 net148 0) pfet L=7.20E-6 W=8.72E-6
R140 ( net119 net9)  R=4.7E6
T141 ( net9 net231 vdd! vdd!)  pfet  L=7.88E-6 W=1.67E-6
T142 ( net73 net231 vdd! vdd!)  pfet  L=7.88E-6 W=1.67E-6
T143 ( net36 net9 net73 vdd!)  pfet  L=7.88E-6 W=1.67E-6
T144 (net152 net140 net140 0) pfet L=9.10E-6 W=3.00E-6

