T1 (net179 net136 net136 0) pfet L=8.62E-6 W=5.50E-6
R2 ( net1 net30)  R=4.9E6
T3 ( net30 net129 vdd! vdd!)  pfet  L=5.96E-6 W=5.61E-6
T4 ( net152 net129 vdd! vdd!)  pfet  L=5.96E-6 W=5.61E-6
T5 ( 0 net30 net129 vdd!)  pfet  L=5.96E-6 W=5.61E-6
T6 (net118 net221 net221 0) nfet L=4.45E-6 W=4.31E-6
R7 ( vdd! net95)  R=9.9E6
T8 ( net95 net95 0 0)  nfet  L=7.09E-6 W=4.90E-6
T9 ( net37 net95 0 0)  nfet  L=7.09E-6 W=4.90E-6
T10 (net27 net197 net197 0) nfet L=6.02E-6 W=8.71E-6
R11 (net120 net121) R=6.3E6
R12 (0 vdd!) R=9.8E0
R13 ( net199 net178)  R=6.5E6
T14 ( net178 net5 0 0)  nfet  L=1.33E-6 W=1.03E-6
T15 ( net66 net5 0 0)  nfet  L=1.33E-6 W=1.03E-6
T16 ( vdd! net178 net5 0)  nfet  L=1.33E-6 W=1.03E-6
T17 (net86 net249 net249 0) nfet L=7.03E-6 W=5.20E-6
T18 (net233 net35 net35 0) nfet L=7.60E-6 W=4.18E-6
T19 ( net11 net11 vdd! vdd!)  pfet  L=2.45E-6 W=1.94E-6
T20 ( net175 net11 vdd! vdd!)  pfet  L=2.45E-6 W=1.94E-6
R21 ( net175 vdd!)  R=7.5E3
R22 (net139 net158) R=8.9E6
R23 (0 net25) R=8.9E2
T24 (net154 net125 net125 0) nfet L=8.15E-6 W=8.12E-6
R25 (net107 net144) R=7.0E2
T26 (net132 net17 net17 0) nfet L=6.88E-6 W=1.87E-6
R27 ( net49 net23)  R=0.7E2
T28 ( net23 net23 net238 vdd!)  pfet  L=8.49E-6 W=9.22E-6
T29 ( net238 net98 vdd! vdd!)  pfet  L=8.49E-6 W=9.22E-6
T30 ( net98 net98 vdd! vdd!)  pfet  L=8.49E-6 W=9.22E-6
T31 ( net104 net23 net98 vdd!)  pfet  L=8.49E-6 W=9.22E-6
T32 (net37 net121 net121 0) nfet L=8.93E-6 W=9.60E-6
R33 (vdd! net223) R=9.8E6
R34 (net19 net134) R=9.4E5
T35 ( net246 net246 vdd! vdd!)  pfet  L=8.31E-6 W=8.59E-6
T36 ( net213 net246 vdd! vdd!)  pfet  L=8.31E-6 W=8.59E-6
R37 ( net213 net31)  R=1.8E2
R38 (net29 net193) R=2.9E1
C39 (0 net115) C=7.5E-7
R40 (net31 net80) R=7.9E4
R41 ( net151 net168)  R=0.2E0
T42 ( net168 net171 vdd! vdd!)  pfet  L=3.60E-6 W=0.20E-6
T43 ( net90 net171 vdd! vdd!)  pfet  L=3.60E-6 W=0.20E-6
T44 ( net126 net168 net90 vdd!)  pfet  L=3.60E-6 W=0.20E-6
T45 (net50 net204 net204 0) nfet L=5.20E-6 W=6.27E-6
R46 ( net230 net112)  R=2.0E5
T47 ( net112 net112 0 0)  nfet  L=7.19E-6 W=4.41E-6
T48 ( net93 net112 0 0)  nfet  L=7.19E-6 W=4.41E-6
C49 (net240 net2) C=5.5E-6
C50 (net69 net72) C=4.8E-6
R51 ( net203 net75)  R=8.3E1
T52 ( net75 net75 0 0)  nfet  L=3.09E-6 W=0.46E-6
T53 ( net202 net75 0 0)  nfet  L=3.09E-6 W=0.46E-6
T54 (0 net20 net20 0) pfet L=9.99E-6 W=6.56E-6
T55 (net104 net139 net139 0) nfet L=9.44E-6 W=9.28E-6
R56 ( net69 net17)  R=9.4E5
T57 ( net17 net216 0 0)  nfet  L=8.54E-6 W=6.93E-6
T58 ( net125 net216 0 0)  nfet  L=8.54E-6 W=6.93E-6
T59 ( net22 net17 net125 0)  nfet  L=8.54E-6 W=6.93E-6
T60 (net116 net16 net16 0) pfet L=7.46E-6 W=5.37E-6
R61 ( net239 net116)  R=0.4E4
T62 ( net116 net135 0 0)  nfet  L=4.01E-6 W=8.10E-6
T63 ( net173 net135 0 0)  nfet  L=4.01E-6 W=8.10E-6
T64 ( net60 net116 net173 0)  nfet  L=4.01E-6 W=8.10E-6
C65 (net28 net179) C=9.6E-7
T66 (net12 net211 net211 0) pfet L=2.16E-6 W=9.94E-6
R67 (net3 0) R=8.7E1
R68 (net121 net140) R=3.9E3
T69 ( net210 net210 0 0)  nfet  L=7.93E-6 W=6.28E-6
T70 ( net108 net210 0 0)  nfet  L=7.93E-6 W=6.28E-6
R71 ( net108 net32)  R=1.0E0
T72 (net92 net180 net180 0) nfet L=6.63E-6 W=5.55E-6

