T1 ( net17 net17 0 0)  nfet  L=7.65E-6 W=8.21E-6
T2 ( net21 net17 0 0)  nfet  L=7.65E-6 W=8.21E-6
R3 ( net21 net2)  R=3.0E1
R4 (net8 net20) R=5.5E5
T5 ( net9 net9 vdd! vdd!)  pfet  L=8.54E-6 W=2.26E-6
T6 ( net13 net9 vdd! vdd!)  pfet  L=8.54E-6 W=2.26E-6
R7 ( net13 net10)  R=9.3E5
T8 (net15 net10 net10 0) nfet L=8.68E-6 W=5.10E-6
R9 (net9 vdd!) R=3.2E0

