C1 (0 vdd!) C=8.5E-11
T2 ( net113 net113 vdd! vdd!)  pfet  L=9.10E-6 W=4.43E-6
T3 ( net4 net113 vdd! vdd!)  pfet  L=9.10E-6 W=4.43E-6
R4 ( net4 net24)  R=1.6E2
T5 (net134 net113 net113 0) pfet L=2.81E-6 W=8.11E-6
T6 (vdd! net95 net95 0) nfet L=2.73E-6 W=6.99E-6
R7 ( net58 net146)  R=1.0E3
T8 ( net146 net146 0 0)  nfet  L=5.78E-6 W=1.79E-6
T9 ( 0 net146 0 0)  nfet  L=5.78E-6 W=1.79E-6
R10 (net33 net68) R=3.0E3
R11 ( 0 net20)  R=2.9E1
T12 ( net20 net145 0 0)  nfet  L=6.08E-6 W=7.31E-6
T13 ( net26 net145 0 0)  nfet  L=6.08E-6 W=7.31E-6
T14 ( vdd! net20 net145 0)  nfet  L=6.08E-6 W=7.31E-6
R15 (net84 net42) R=2.9E3
R16 (net136 net38) R=4.8E6
R17 ( net25 net151)  R=8.4E6
T18 ( net151 net151 vdd! vdd!)  pfet  L=3.28E-6 W=9.49E-6
T19 ( net46 net151 vdd! vdd!)  pfet  L=3.28E-6 W=9.49E-6
R20 (vdd! net7) R=5.3E5
T21 (net80 net28 net28 0) pfet L=0.30E-6 W=6.80E-6
T22 (net137 net101 net101 0) nfet L=4.04E-6 W=8.20E-6
T23 (net76 net81 net81 0) nfet L=2.00E-6 W=9.92E-6
T24 (net69 net112 net112 0) pfet L=3.18E-6 W=7.68E-6
T25 (net34 vdd! vdd! 0) pfet L=0.20E-6 W=6.33E-6
R26 (net122 net156) R=0.6E6
T27 (vdd! net23 net23 0) pfet L=5.54E-6 W=6.06E-6
T28 (net47 net6 net6 0) nfet L=5.18E-6 W=6.91E-6
T29 (net148 net58 net58 0) pfet L=9.96E-6 W=4.57E-6
T30 (net46 net119 net119 0) nfet L=8.13E-6 W=1.69E-6
T31 (net115 net47 net47 0) nfet L=7.41E-6 W=7.39E-6
T32 (vdd! net15 net15 0) nfet L=3.47E-6 W=2.03E-6
T33 (net72 net54 net54 0) pfet L=7.10E-6 W=4.57E-6
T34 (net110 net147 net147 0) nfet L=7.12E-6 W=0.19E-6
T35 (net117 net73 net73 0) pfet L=1.15E-6 W=3.83E-6
C36 (net72 vdd!) C=6.1E-12
C37 (vdd! net129) C=9.1E-13
R38 (net16 net100) R=8.2E3
R39 (net134 net100) R=0.4E4
R40 (net64 net34) R=9.1E5
T41 (net5 net23 net23 0) pfet L=3.17E-6 W=6.72E-6
T42 (net61 net121 net121 0) pfet L=8.73E-6 W=2.77E-6
R43 (net134 net47) R=0.4E1
C44 (net110 net133) C=4.0E-14
T45 (net85 net110 net110 0) pfet L=0.33E-6 W=3.77E-6
T46 (net59 net120 net120 0) nfet L=8.29E-6 W=9.99E-6
T47 (net142 vdd! vdd! 0) nfet L=3.83E-6 W=7.25E-6
R48 (vdd! 0) R=5.1E5
T49 (net84 net132 net132 0) pfet L=1.38E-6 W=7.24E-6
R50 (net152 net128) R=0.8E6
T51 (net43 net102 net102 0) nfet L=0.53E-6 W=1.09E-6
C52 (net25 net85) C=1.2E-6
R53 (net140 net139) R=6.0E4
C54 (net3 net127) C=9.0E-10
T55 (net97 net155 net155 0) nfet L=4.19E-6 W=8.19E-6
T56 (net12 net94 net94 0) nfet L=9.20E-6 W=0.52E-6
R57 (net18 vdd!) R=4.7E6
T58 (net43 net115 net115 0) nfet L=8.62E-6 W=1.10E-6
T59 (net113 0 0 0) pfet L=0.90E-6 W=0.32E-6
T60 (net29 net1 net1 0) pfet L=8.69E-6 W=7.31E-6
T61 (net127 net6 net6 0) nfet L=6.67E-6 W=9.64E-6
T62 (net88 net148 net148 0) pfet L=0.27E-6 W=9.72E-6
C63 (net139 net37) C=9.0E-5
R64 (net149 net106) R=5.0E4
T65 (net104 net99 net99 0) pfet L=2.87E-6 W=6.47E-6
R66 (net66 net116) R=9.0E4
T67 (net59 net116 net116 0) pfet L=7.79E-6 W=5.54E-6
C68 (net119 net60) C=0.1E-13
C69 (net14 net128) C=0.4E-12
T70 (net2 net51 net51 0) pfet L=8.98E-6 W=3.12E-6
T71 (net152 net149 net149 0) pfet L=1.03E-6 W=3.38E-6
T72 (net25 net83 net83 0) nfet L=0.86E-6 W=1.79E-6
C73 (net122 net118) C=0.6E-14
C74 (net139 net73) C=9.5E-9
T75 (net115 net104 net104 0) nfet L=7.97E-6 W=4.12E-6
R76 (net1 net63) R=0.5E5
T77 (net73 net133 net133 0) pfet L=6.41E-6 W=2.02E-6
C78 (net51 net57) C=8.6E-6
R79 (net69 net89) R=1.1E1
T80 (net38 net150 net150 0) nfet L=1.55E-6 W=9.43E-6
C81 (net102 net25) C=1.2E-11
T82 (net45 net129 net129 0) pfet L=1.30E-6 W=5.32E-6
T83 (net68 net153 net153 0) nfet L=9.39E-6 W=9.59E-6
T84 (net69 net55 net55 0) nfet L=8.23E-6 W=9.73E-6
C85 (net144 net132) C=7.1E-5
R86 (net45 net34) R=2.7E3
C87 (net96 net89) C=9.3E-7
C88 (net114 net12) C=0.7E-11
T89 (net111 net2 net2 0) nfet L=3.79E-6 W=8.02E-6
T90 (net45 net38 net38 0) nfet L=1.79E-6 W=6.84E-6
T91 (net8 net107 net107 0) nfet L=8.23E-6 W=4.72E-6
R92 (net88 net83) R=8.3E2
R93 (net122 net75) R=9.8E3
C94 (net11 net115) C=1.1E-11
R95 (net34 net6) R=7.6E5
C96 (net69 net115) C=6.6E-14
R97 (net83 net142) R=3.9E0
T98 (vdd! net45 net45 0) pfet L=9.08E-6 W=1.28E-6
C99 (net22 net69) C=8.1E-12
C100 (net121 net109) C=7.5E-6
T101 (net19 net133 net133 0) nfet L=1.92E-6 W=6.30E-6
C102 (net68 net129) C=6.2E-9
T103 (net124 net65 net65 0) nfet L=4.27E-6 W=5.88E-6
C104 (net106 net153) C=2.6E-14
R105 (vdd! 0) R=2.9E3
T106 (net70 net77 net77 0) pfet L=9.73E-6 W=2.65E-6
T107 (net43 net25 net25 0) nfet L=2.62E-6 W=7.25E-6
R108 (net95 net155) R=3.2E1
T109 (net117 net133 net133 0) pfet L=8.68E-6 W=0.40E-6
T110 (net101 vdd! vdd! 0) pfet L=0.28E-6 W=4.97E-6
C111 (net106 net21) C=6.3E-5
R112 (net127 net36) R=9.9E5
T113 (net129 net72 net72 0) pfet L=6.72E-6 W=4.88E-6
R114 (net34 net125) R=0.6E3
C115 (0 net156) C=1.6E-14
C116 (net69 net105) C=9.3E-13
T117 (net43 net49 net49 0) pfet L=4.23E-6 W=6.47E-6
C118 (net107 net45) C=6.2E-6
T119 (net121 net7 net7 0) pfet L=2.04E-6 W=5.04E-6
R120 (net48 net40) R=5.3E0
C121 (net67 net9) C=0.3E-5
C122 (net98 net138) C=5.6E-7
T123 (net127 net134 net134 0) nfet L=6.44E-6 W=2.61E-6
T124 (net111 net95 net95 0) nfet L=7.29E-6 W=2.60E-6
R125 (net128 net152) R=3.7E3
C126 (net126 net83) C=4.0E-8
T127 (net86 vdd! vdd! 0) nfet L=8.61E-6 W=6.66E-6
T128 (net63 net94 net94 0) pfet L=2.91E-6 W=4.62E-6
T129 (net27 net88 net88 0) pfet L=9.87E-6 W=7.42E-6
R130 (net138 net48) R=1.5E4
C131 (net112 net43) C=7.2E-11
T132 (net24 net132 net132 0) pfet L=3.89E-6 W=7.63E-6
R133 (net78 net120) R=9.3E2
T134 (net132 net24 net24 0) pfet L=2.01E-6 W=6.18E-6
C135 (net63 net72) C=8.6E-7
C136 (net19 net23) C=6.1E-8
T137 (net48 net98 net98 0) pfet L=0.18E-6 W=8.45E-6
C138 (0 net119) C=0.7E-8
T139 (net72 net132 net132 0) pfet L=1.10E-6 W=7.23E-6
T140 (net53 net72 net72 0) pfet L=7.94E-6 W=1.27E-6
T141 (net123 net137 net137 0) nfet L=2.82E-6 W=4.72E-6
R142 (net28 net132) R=2.2E1
T143 (net89 net108 net108 0) nfet L=2.19E-6 W=5.31E-6
R144 (net47 net94) R=7.7E3
R145 (net58 net21) R=3.4E5
C146 (net152 net1) C=3.1E-11
T147 (net53 net86 net86 0) nfet L=9.42E-6 W=0.36E-6
R148 (net16 net27) R=4.8E0
T149 (net53 net71 net71 0) pfet L=2.27E-6 W=4.38E-6
T150 (net58 net7 net7 0) nfet L=5.40E-6 W=9.86E-6
T151 (net125 net22 net22 0) pfet L=8.18E-6 W=4.41E-6
C152 (net36 net128) C=5.7E-14
T153 (net47 net11 net11 0) pfet L=8.93E-6 W=2.35E-6
T154 (net131 net72 net72 0) pfet L=1.80E-6 W=9.93E-6
T155 (0 net61 net61 0) nfet L=4.21E-6 W=0.16E-6
R156 (vdd! net53) R=7.9E1
C157 (net46 0) C=9.6E-7
C158 (net50 0) C=6.1E-11
R159 (net8 net132) R=1.3E4
T160 (net35 net28 net28 0) pfet L=9.94E-6 W=4.61E-6
T161 (net56 net110 net110 0) pfet L=9.52E-6 W=3.57E-6
R162 (net24 net104) R=7.6E6
R163 (net123 net76) R=4.3E5
T164 (net100 net156 net156 0) pfet L=3.68E-6 W=8.91E-6
R165 (net46 net53) R=0.6E1
R166 (net3 0) R=1.7E3
T167 (net24 net136 net136 0) nfet L=1.50E-6 W=5.14E-6
T168 (0 net86 net86 0) nfet L=5.75E-6 W=4.46E-6
T169 (net105 net64 net64 0) nfet L=5.67E-6 W=8.21E-6
R170 (net110 net124) R=4.6E3
C171 (net86 net54) C=2.7E-6
C172 (net57 net88) C=2.8E-6
R173 (net45 net6) R=6.7E2
T174 (net11 net94 net94 0) nfet L=8.29E-6 W=7.52E-6
T175 (net132 net81 net81 0) nfet L=7.13E-6 W=7.22E-6
R176 (net63 net18) R=4.0E4
T177 (0 net104 net104 0) pfet L=7.83E-6 W=7.41E-6
R178 (net74 net82) R=5.6E2
T179 (net102 net139 net139 0) pfet L=9.48E-6 W=5.82E-6
T180 (net154 net36 net36 0) pfet L=9.85E-6 W=4.78E-6
R181 (net105 net120) R=6.9E0
T182 (net133 net49 net49 0) nfet L=5.10E-6 W=3.52E-6
R183 (net79 net106) R=6.1E2
T184 (net111 net82 net82 0) pfet L=4.63E-6 W=0.41E-6
C185 (net131 net127) C=5.1E-7
C186 (net13 net108) C=1.9E-11
R187 (vdd! net34) R=1.2E2

